US07897607B2
Ethyl 6-mesityl-4-oxo-1-propoxy-4H-quinolizine-3-carboxylate
Diethyl 2[2-propoxy-2-(6-mesitylpyridin-2-yl)-ethylidene]-malonate (0.189 g, 0.43 mmol) was dissolved in 4 mL of Dowtherm A (phenyl ether: biphenyl 2:1 ratio). The solution was placed in a pre-heated oil bath set at 220° C. The reaction stirred at this temperature for 15 minutes. The solution was cooled and flash chromatographed (20-50% ethyl acetate/hexanes) to give 0.012 g (7% yield) of the title compound.

reactant | Diethyl 2[2-propoxy-2-(6-mesitylpyridin-2-yl)-ethylidene]-malonate | 0.43 mmol, 0.189 g | C(CC)OC(C=C(C(=O)OCC)C(=O)OCC)C1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C | C26H33NO5
solvent | Dowtherm A | 4 mL | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
product | Ethyl 6-mesityl-4-oxo-1-propoxy-4H-quinolizine-3-carboxylate | 0.012 g, 7% yield | C1(=C(C(=CC(=C1)C)C)C=1N2C(C(=CC(=C2C=CC1)OCCC)C(=O)OCC)=O)C | C24H27NO4
